* C:\Program Files\gEDA\gEDA\bin\gnetlist.exe -g spice-sdb -o big_muff_spice_relabeled.net big_muff.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ../models/1N914.mod vvvvvvvv
******
* Spice Model
* Item: 1N914
* Date: 12/07/11
* Revision History: REV A
*==========================================================
* This model was developed by:
* Central Semiconductor Corp.
* 145 Adams Avenue
* Hauppauge, NY 11788
*
* These models are subject to change without notice.
* Users may not directly or indirectly re-sell or
* re-distribute this model. This model may not
* be modified, or altered without the consent of Central Semiconductor Corp.
*
* For more information on this model contact
* Central Semiconductor Corp. at:
* (631) 435-1110 or Engineering@centralsemi.com
* http://www.centralsemi.com
*==========================================================
******
*SRC=1N914;1N914;Diodes;Si;100V  150mA  4.0ns  Central Semi Central Semi
.MODEL 1N914 D  ( IS=6.2229E-9
+ N=1.9224
+ RS=.33636
+ IKF=42.843E-3
+ CJO=764.38E-15
+ M=.1001
+ VJ=9.9900
+ ISR=11.526E-9
+ NR=4.9950
+ BV=100.14
+ IBV=.25951
+ TT=2.8854E-9 )
******
*^^^^^^^^  End of included SPICE model from ../models/1N914.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ../models/2N5179.mod vvvvvvvv
******
* Spice Model
* Item: 2N5179
* Date: 8/12/10
* Revsion History: REV A
*==========================================================
* This model was developed by:
* Central Semiconductor Corp.
* 145 Adams Avenue
* Hauppauge, NY 11788
*
* These models are subject to change without notice.
* Users may not directly or indirectly re-sell or
* re-distribute this model. This model may not
* be modified, or altered without the consent of Central Semiconductor Corp.
*
* For more information on this model contact
* Central Semiconductor Corp. at:
* (631) 435-1110 or Engineering@centralsemi.com
* http://www.centralsemi.com
*===========================================================
*
******
*SRC=2N5179;2N5179;BJTs NPN; Si;  20V  50.0mA  2000MHz   CENTRAL TRANSISTOR
.MODEL 2N5179  NPN (IS=1.55467e-17 BF=296.182 NF=0.850014 VAF=10
+IKF=0.00544635 ISE=2.01913e-14 NE=1.54276 BR=19.550
+NR=0.825166 VAR=73.1109 IKR=0.0544635 ISC=1e-160
+NC=2.9688 RB=21.0221 IRB=0.478136 RBM=0.1384250
+RE=0.000646335 RC=3.0552 XTB=0.582018 XTI=1
+EG=1.06135 CJE=1.08982e-12 VJE=0.99 MJE=0.230
+TF=2.15066e-11 XTF=1000 VTF=1.33967 ITF=0.0010
+CJC=1.89423e-12 VJC=0.95 MJC=0.23 XCJC=0.4084790
+FC=0.1 CJS=0 VJS=0.75 MJS=0.50
+TR=1e-07 PTF=0 KF=0 AF=1)
******
*^^^^^^^^  End of included SPICE model from ../models/2N5179.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
;.AC DEC 20 1Hz 100MegHz
;* .DC VINPUT 0 5 .01
;* .DC VINPUT 1 2 .01
.tran 0.1ms 2.45s
;.plot ac v(Vout) v(Vin)
;.plot tran t v(Vout) v(Vin) v(Vcc:2) v(63) v(4) v(Bypass) v(7) v(41) v(64) v(48) v(42) v(EqIn) v(EqOut) v(SwitchOn)
;.print ac v(Vout) v(Vin) v(Vcc:2) v(63) v(4) v(Bypass) v(7) v(41) v(64) v(48) v(42) v(EqIn) v(EqOut) v(SwitchOn)
;.plot tran t v(Vout) v(Vin)
;.print ac v(Vout) v(Vin)
.options TEMP=25
.wave "D:/Perso/Effects/Eon/Sound/bmout3.wav" 16 22050 InputVout
;Vinput Vin 0 dc 0 ac 1 sin(0 1 300Hz)
RVOLB 0 Vout 50k
RVOLT Vout 17 50k
RTONB 8 18 50k
RTONT 18 7 50k
RSUSB 16 20 50k
RSUST 20 19 50k
D4 12 21 1N914
D3 21 12 1N914
D2 Clip2Vout 4 1N914
C13 12 Clip1Vout 1u
C12 14 12 500p
C11 11 Clip2Vout 500p
C10 3 9 500p
C9 Clip2Vout 7 0.004u
C8 0 8 0.01u
C7 11 4 1u
C6 14 21 1u
C5 20 InputVout 0.68u
C4 9 19 0.68u
C3 18 ToneVout 0.68u
C2 5 17 0.68u
R23 0 16 1k
R22 0 15 120
R21 0 13 120
R20 0 14 100k
R19 InputVout 14 10k
R18 12 1 10k
R17 14 12 470k
R16 0 11 100k
R15 11 Clip2Vout 470k
Q4 9 3 15 2N5179
Q3 12 14 13 2N5179
Q2 Clip2Vout 11 10 2N5179
R14 0 3 100k
R13 9 1 39k
R12 Clip1Vout 11 10k
R11 Clip2Vout 1 39k
R10 0 10 120
R9 3 9 470k
R8 Clip2Vout 8 27k
R7 ToneVout 1 470k
R6 5 1 10k
R5 7 0 27k
R4 0 6 2.2k
R3 0 ToneVout 100k
R2 Vin 2 36k
Q1 5 ToneVout 6 2N5179
D1 4 Clip2Vout 1N914
C1 2 3 1u
;Vinput Vin 0 ac 1 sin(0 1 300Hz)
Vinput Vin 0 wavefile="D:/Perso/Effects/Eon/Sound/test.wav" chan=0
V1 1 0 DC 9V
.end
