* C:\Program Files\gEDA\gEDA\bin\gnetlist.exe -g spice-sdb -o big_muff_spice_test.net big_muff.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ../models/1N914.mod vvvvvvvv
******
* Spice Model
* Item: 1N914
* Date: 12/07/11
* Revision History: REV A
*==========================================================
* This model was developed by: 
* Central Semiconductor Corp.
* 145 Adams Avenue
* Hauppauge, NY 11788
*
* These models are subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be modified, or altered without the consent of Central Semiconductor Corp. 
*
* For more information on this model contact
* Central Semiconductor Corp. at:
* (631) 435-1110 or Engineering@centralsemi.com
* http://www.centralsemi.com
*==========================================================
******
*SRC=1N914;1N914;Diodes;Si;100V  150mA  4.0ns  Central Semi Central Semi
.MODEL 1N914 D  ( IS=6.2229E-9
+ N=1.9224
+ RS=.33636
+ IKF=42.843E-3
+ CJO=764.38E-15
+ M=.1001
+ VJ=9.9900
+ ISR=11.526E-9
+ NR=4.9950
+ BV=100.14
+ IBV=.25951
+ TT=2.8854E-9 )
******
*^^^^^^^^  End of included SPICE model from ../models/1N914.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ../models/2N5179.mod vvvvvvvv
******
* Spice Model
* Item: 2N5179
* Date: 8/12/10
* Revsion History: REV A
*==========================================================
* This model was developed by: 
* Central Semiconductor Corp.
* 145 Adams Avenue
* Hauppauge, NY 11788
*
* These models are subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be modified, or altered without the consent of Central Semiconductor Corp. 
*
* For more information on this model contact
* Central Semiconductor Corp. at:
* (631) 435-1110 or Engineering@centralsemi.com
* http://www.centralsemi.com
*===========================================================
*
******
*SRC=2N5179;2N5179;BJTs NPN; Si;  20V  50.0mA  2000MHz   CENTRAL TRANSISTOR
.MODEL 2N5179  NPN (IS=1.55467e-17 BF=296.182 NF=0.850014 VAF=10
+IKF=0.00544635 ISE=2.01913e-14 NE=1.54276 BR=19.550
+NR=0.825166 VAR=73.1109 IKR=0.0544635 ISC=1e-160
+NC=2.9688 RB=21.0221 IRB=0.478136 RBM=0.1384250
+RE=0.000646335 RC=3.0552 XTB=0.582018 XTI=1
+EG=1.06135 CJE=1.08982e-12 VJE=0.99 MJE=0.230
+TF=2.15066e-11 XTF=1000 VTF=1.33967 ITF=0.0010
+CJC=1.89423e-12 VJC=0.95 MJC=0.23 XCJC=0.4084790
+FC=0.1 CJS=0 VJS=0.75 MJS=0.50
+TR=1e-07 PTF=0 KF=0 AF=1)
******
*^^^^^^^^  End of included SPICE model from ../models/2N5179.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
.INCLUDE ./Simulate.cmd.bak
.options TEMP=25
RVOLB 0 Vout 50k  
RVOLT Vout 21 50k  
RTONB 10 22 50k  
RTONT 22 9 50k  
RSUSB 20 24 50k  
RSUST 24 23 50k  
D4 15 25 1N914 
.MODEL unknown D (1N914)
D3 25 15 1N914 
.MODEL unknown D (1N914)
D2 4 5 1N914 
.MODEL unknown D (1N914)
C13 15 14 1u  
C12 17 15 500p  
C11 13 4 500p  
C10 3 11 500p  
C9 4 9 0.004u  
C8 0 10 0.01u  
C7 13 5 1u  
C6 17 25 1u  
C5 24 19 0.68u  
C4 11 23 0.68u  
C3 22 8 0.68u  
C2 6 21 0.68u  
R23 0 20 1k  
R22 0 18 120  
R21 0 16 120  
R20 0 17 100k  
R19 19 17 10k  
R18 15 1 10k  
R17 17 15 470k  
R16 0 13 100k  
R15 13 4 470k  
Q4 11 3 18 2N5179 
.MODEL unknown <unknown> (2N5179)
Q3 15 17 16 2N5133 
.MODEL unknown <unknown> (2N5133)
Q2 4 13 12 2N5133 
.MODEL unknown <unknown> (2N5133)
R14 0 3 100k  
R13 11 1 39k  
R12 14 13 10k  
R11 4 1 39k  
R10 0 12 120  
R9 3 11 470k  
R8 4 10 27k  
R7 8 1 470k  
R6 6 1 10k  
R5 9 0 27k  
R4 0 7 2.2k  
R3 0 8 100k  
R2 Vin 2 36k  
Q1 6 8 7 2N5133 
.MODEL unknown <unknown> (2N5133)
D1 5 4 1N914 
C1 2 3 1u  
V2 Vin 0 ac 1 sin(0 1 300Hz)
V1 1 0 DC 9V
.end
