* C:\Program Files\gEDA\gEDA\bin\gnetlist.exe -g spice-sdb -o capacitancemeter.net capacitancemeter.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ./models/1N4148.mod vvvvvvvv
.MODEL 1N4148 D
+ IS = 4.352E-9
+ N = 1.906
+ BV = 110
+ IBV = 0.0001
+ RS = 0.6458
+ CJO = 7.048E-13
+ VJ = 0.869
+ M = 0.03
+ FC = 0.5
+ TT = 3.48E-9
*^^^^^^^^  End of included SPICE model from ./models/1N4148.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
D2 3 1 1N4148
R4 Vin 1 10k
R3 0 3 10k
.options TEMP=25
.tran 1n 10
D1 2 0 1N4148
C1 0 Vout 0.1u
R2 2 Vout 10k
R1 1 Vout 10k
V1 Vin 0 DC 3V
.end
