* gnetlist -g spice-sdb -o spice.net tech21_spice.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ./models/TL074.301 vvvvvvvv
* TL074 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL074    1 2 3 4 5
*
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS TL074
*^^^^^^^^  End of included SPICE model from ./models/TL074.301 ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ./models/TL072.301 vvvvvvvv
* TL072 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL072    1 2 3 4 5
*
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS TL072
*^^^^^^^^  End of included SPICE model from ./models/TL072.301 ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
X4.2 Vcc:2 54 Vcc 0 55 TL072
X4.1 45 50 Vcc 0 50 TL072
X3.2 35 44 Vcc 0 44 TL072
X3.1 Vcc:2 47 Vcc 0 EqOut TL072
X2.4 28 30 Vcc 0 30 TL074
X2.3 64 48 Vcc 0 48 TL074
X2.2 Vcc:2 41 Vcc 0 42 TL074
X2.1 18 9 Vcc 0 9 TL074
X1.4 17 2 Vcc 0 2 TL074
X1.3 20 22 Vcc 0 15 TL074
X1.2 10 21 Vcc 0 20 TL074
X1.1 4 7 Vcc 0 7 TL074
R41b 53 56 50k
R41t 57 53 50k
R24t 46 38 50k
R24b 37 46 50k
R20 25 Vcc:2 30k
R19 27 Vcc:2 50k
R26b 64 Vcc:2 70k
R26t 63 64 30k
R22b 63 29 100k
R22t 7 63 1
.OP
;.AC DEC 20 1Hz 100MegHz
;* .DC VINPUT 0 5 .01
;* .DC VINPUT 1 2 .01
.tran 0.1ms 2.45s
;.plot ac v(Vout) v(Vin)
;.plot tran t v(Vout) v(Vin) v(Vcc:2) v(63) v(4) v(Bypass) v(7) v(41) v(64) v(48) v(42) v(EqIn) v(EqOut) v(SwitchOn)
;.print ac v(Vout) v(Vin) v(Vcc:2) v(63) v(4) v(Bypass) v(7) v(41) v(64) v(48) v(42) v(EqIn) v(EqOut) v(SwitchOn)
;.plot tran t v(Vout) v(Vin)
;.print ac v(Vout) v(Vin)
.options TEMP=25
.wave "D:/Perso/Effects/Tech21/Tech21/out3.wav" 16 22050 Vout
;Vinput Vin 0 dc 0 ac 1 sin(0 1 300Hz)
Vinput Vin 0 wavefile="D:/Perso/Effects/Tech21/Tech21/test.wav" chan=0
C33 0 Vcc 47u
R48 0 SwitchOn 100k
R47 0 Bypass 100k
C32 0 Vcc:2 220u
R46 0 Vcc:2 10k
R45 Vcc:2 Vcc 10k
C31 0 Vcc 220u
C30 55 58 10u
V1 Vcc 0 DC 9V
R44 58 59 100
R43 0 58 10k
R42 56 EqOut 10k
R40 EqIn 57 10k
C29 57 53 22n
C28 54 55 33p
C27 56 53 22n
R39 54 55 10k
R38 54 50 10k
R37 53 47 10k
R36 51 52 100
R35 0 51 10k
C26 50 51 10u
C25 42 EqIn 100n
C24 44 43 10u
R34 Vcc:2 45 3.2k
R33 48 41 10k
C23 47 EqOut 33p
R32 47 EqOut 1Meg
R31 47 46 3.3k
R30 45 44 22k
R29 41 42 22k
R28 43 Vout 1k
R27 0 43 10k
C22 41 42 33p
C21 SwitchOn 35 2.2u
C20 40 SwitchOn 2.2u
R25 EqOut 40 1k
C19 38 EqOut 10n
C18 EqIn 37 10n
R23 35 Vcc:2 10k
C17 7 Bypass 2.2u
R21 Vcc:2 31 6.2k
C16 31 9 22n
C15 31 28 47n
RSP4 31 0 100Meg
C14 29 30 47n
R18 28 9 22k
C13 22 15 220p
C12 21 20 220p
RSP1 26 0 100Meg
C11 26 21 10n
R17 27 26 3.3k
R16 25 22 3.3k
C10 24 18 1.2n
RSP2 24 0 100Meg
C9 Vcc:2 17 470p
C8 Vcc:2 16 47n
R15 Vcc:2 12 22k
R14 Vcc:2 11 2.2k
R13 22 15 330k
R12 21 20 330k
R11 Vcc:2 14 22k
R10 8 18 33k
R9 2 8 33k
R8 1 17 22k
R7 16 1 10k
R6 15 14 10k
R5 14 1 22k
R4 10 Vcc:2 100k
C7 12 6 22n
C6 11 12 22n
C5 11 7 22n
C4 6 10 22n
C3 Vin 5 0.022u
C2 8 9 2.2n
R3 7 6 100k
R2 5 4 10k
R1 4 Vcc:2 1Meg
C1 1 2 10n
.end
