* gnetlist -g spice-sdb -o spice.net tech21_spice.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ./models/TL074.301 vvvvvvvv
* TL074 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL074    1 2 3 4 5
*
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS TL074
*^^^^^^^^  End of included SPICE model from ./models/TL074.301 ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ./models/TL072.301 vvvvvvvv
* TL072 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL072    1 2 3 4 5
*
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS TL072
*^^^^^^^^  End of included SPICE model from ./models/TL072.301 ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
X4.2 81 54 82 0 55 TL072
X4.1 45 50 80 0 50 TL072
X3.2 35 44 79 0 44 TL072
X3.1 77 47 78 0 39 TL072
X2.4 28 30 0 76 30 TL074
X2.3 64 48 0 75 48 TL074
X2.2 73 41 0 74 42 TL074
X2.1 18 9 0 72 9 TL074
X1.4 17 2 0 71 2 TL074
X1.3 20 22 0 70 15 TL074
X1.2 10 21 0 69 20 TL074
X1.1 4 7 0 68 7 TL074
R41b 53 56 50k  
R41t 57 53 50k  
R24t 46 38 50k  
R24b 37 46 50k  
R20 25 67 50k  
R19 27 66 50k  
R26b 64 65  
R26t 63 64  
R22b 63 29  
R22t 7 63  
.INCLUDE ./Simulate.cmd
.options TEMP=25
Vinput Vin 0 dc 0 ac 1 sin(0 1 300Hz)
C33 0 62 47u  
RSP3 62 0 100M
R48 0 SwitchOn 100k  
R47 0 33 100k  
C32 0 61 220u  
R46 0 61 10k  
R45 61 60 10k  
C31 0 60 220u  
C30 55 58  
V1 60 0 DC 9V
R44 58 59 100  
R43 0 58 10k  
R42 56 39 10k  
R40 36 57 10k  
C29 57 53 22n  
C28 54 55 33p  
C27 56 53 22n  
R39 54 55  
R38 54 50  
R37 53 47  
R36 51 52  
R35 0 51  
C26 50 51 10u  
C25 42 36 100n  
C24 44 43 10u  
R34 49 45 3.2k  
R33 48 41 10k  
C23 47 39 33p  
R32 47 39 1M  
R31 47 46 3.3k  
R30 45 44 22k  
R29 41 42 22k  
R28 43 Vout 1k  
R27 0 43 10k  
C22 41 42 33p  
C21 SwitchOn 35 2.2u  
C20 40 SwitchOn 2.2u  
R25 39 40 1k  
C19 38 39 10n  
C18 36 37 10n  
R23 35 34  
C17 7 33 2.2u  
R21 32 31 6.2k  
C16 31 9 22n  
C15 31 28 47n  
RSP4 31 0 100M
C14 29 30 47n  
R18 28 9  
C13 22 15 220p  
C12 21 20 220p  
RSP1 26 0 100M
C11 26 21 10n  
R17 27 26 3.3k  
R16 25 22  
C10 24 18 1.2n  
RSP2 24 0 100M
C9 19 17 470p  
C8 19 16 47n  
R15 23 12 22k  
R14 23 11  
R13 22 15 330k  
R12 21 20 330k  
R11 19 14 22k  
R10 8 18  
R9 2 8 33k  
R8 1 17 22k  
R7 16 1 10k  
R6 15 14  
R5 14 1 22k  
R4 10 13 100k  
C7 12 6 22n  
C6 11 12 22n  
C5 11 7 22n  
C4 6 10 22n  
C3 Vin 5 0.022u  
C2 8 9 2.2n  
R3 7 6 100k  
R2 5 4 10k  
R1 4 3 1M  
C1 1 2 10n  
.end
